US06498176B1
c) Ethyl 2-(3-amino-pyridin-2-yl)-acetate
Under an atmosphere of nitrogen, Pd/C (10%, 1.36 g) was charged to a round bottome flask. Ethyl 2-(3-nitro-pyridin-2-yl)-acetate (8.6 g, 0.41 mol) was dissolved in ethanol (200 mL) and added to the reaction vessel. The reaction was placed under an atmosphere of hydrogen and stirred at room temperature for 30 min. The reaction was filtered through celite and the filtrate was concentrated in vacuo to afford the product as a tan solid (6.94 g, 94% yield).

reactant | Ethyl 2-(3-nitro-pyridin-2-yl)-acetate | 0.41 mol, 8.6 g | [N+](=O)([O-])C=1C(=NC=CC1)CC(=O)OCC | C9H10N2O4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.36 g | [Pd] | Pd
product | Ethyl 2-(3-amino-pyridin-2-yl)-acetate | 6.94 g, 94% yield | NC=1C(=NC=CC1)CC(=O)OCC | C9H12N2O2
